US07335658B2
6-[4-(2-METHYLCYCLOHEXANECARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 14, making variations only as required to use 2-methylcyclohexanecarboxylic acid in place of 4,4,4-trifluoro-2-methylbutyric acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (60% yield). 1H NMR (300 MHz, CDCl3) δ 8.08, 8.00, 7.00, 3.50-4.00, 2.70, 2.05, 1.20-1.90, 0.90, 0.75, 0.45, 0.10. MS (ES+) m/z 400 (M+1).

reactant | 2-methylcyclohexanecarboxylic acid | CC1C(CCCC1)C(=O)O | C8H14O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-METHYLCYCLOHEXANECARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1C(CCCC1)C | C22H33N5O2
